data/oMe_Silver.jsonl
{"reaction_id": "NR-304_1-c1cnccc1","level": "medium","name": "Takai Olefination","reactants_smiles": ["O=C([H])(c1cnccc1)","C(I)(I)I","Cl[Cr]Cl"],"products_smiles": ["c1cnccc1/C=C/I"],"conditions": "CrCl2","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "IC(I)[Cr](Cl)Cl","step_weight": 0,"rationale": "Cr(II) undergoes oxidative addition into a C–I bond due to iodine’s excellent leaving group ability and the high polarizability of the C–I bond, forming a reactive organochromium intermediate."},{"step": 2,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "IC([Cr](Cl)Cl)[Cr](Cl)Cl","step_weight": 0,"rationale": "A second oxidative addition occurs because the remaining C–I bond is similarly activated, and Cr(II) readily inserts, producing a gem-dichromium species with enhanced nucleophilicity at the methylene carbon."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "c1cnccc1C(O[Cr](Cl)Cl)C(I)([Cr](Cl)Cl)","step_weight": 0,"rationale": "The nucleophilic iodomethyl-dichromium attacks the electrophilic aldehyde carbonyl, facilitated by polarization of the C=O bond and stabilization of the alkoxide by coordination to chromium."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "c1cnccc1/C=C/I","step_weight": 0,"rationale": "Syn-elimination is favored due to the chelation geometry imposed by chromium, leading to selective E-alkenyl iodide formation driven by steric minimization between substituents."}],"description": "In the Takai olefination, CrCl2 activates iodoform through successive oxidative additions, generating a nucleophilic iodomethyl-dichromium species. This species adds to the aldehyde, and stereoselective elimination yields the E-vinyl iodide, driven by chromium coordination and thermodynamic product stability."}
{"reaction_id": "NR-226_1-CC_2-c2ccsc2_3-c2ccc(N(C)C)cc2","level": "medium","name": "Polonovski-Potier Reaction","reactants_smiles": ["O=C(C(F)(F)F)OC(=O)C(F)(F)F","C1CCC[N+]([O-])(C(CC)(c2ccsc2)(c2ccc(N(C)C)cc2))C1"],"products_smiles": ["C1CCC[N+](C(CC)(c2ccsc2)(c2ccc(N(C)C)cc2))=C1"],"conditions": "TFAA","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1CCC[N+]([O]C([O-])(C(F)(F)F)OC(=O)C(F)(F)F)(C(CC)(c2ccsc2)(c2ccc(N(C)C)cc2))C1","step_weight": 0,"rationale": "The N-oxide oxygen acts as a nucleophile toward the highly electrophilic carbonyl of TFAA, driven by strong electron withdrawal from CF3 groups, forming an activated intermediate."},{"step": 2,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C1CCC[N+]([O]C(=O)C(F)(F)F)(C(CC)(c2ccsc2)(c2ccc(N(C)C)cc2))C1","step_weight": 0,"rationale": "The trifluoroacetate anion is an excellent leaving group due to resonance and inductive stabilization by CF3, enabling elimination to form the iminium intermediate."},{"step": 3,"type": "elimination","subtype": "proton_elimination","intermediate_smiles": "C1CCC[N+](C(CC)(c2ccsc2)(c2ccc(N(C)C)cc2))=C1","step_weight": 0,"rationale": "Base-assisted deprotonation adjacent to the iminium center is favored, as it restores conjugation and yields the thermodynamically stable alkene product."}],"description": "In the Polonovski-Potier reaction under TFAA activation, the N-oxide oxygen attacks the electrophilic anhydride, forming an activated intermediate. The trifluoroacetate group facilitates leaving group departure, generating an iminium species, which then undergoes deprotonation to yield the alkene product."}
